US08440689B2
(R)-Methyl 6-(2-(tert-butoxycarbonylamino)-3-methoxypropylamino)-4-cyano-2-(m-tolylamino)nicotinate
To a screw-top vial was added methyl 6-chloro-4-cyano-2-(m-tolylamino)nicotinate (0.28 g, 0.928 mmol), (R)-tert-Butyl 1-amino-3-methoxypropan-2-ylcarbamate (0.227 g, 1.114 mmol), and DIPEA (0.211 mL, 1.206 mmol) in DMF (3 mL). The resulting yellow solution was stirred at RT for 12 h, diluted with EtOAc (30 mL) and washed with water (2×20 mL) and brine (20 mL). The organic phase was dried with Na2SO4 and concentrated to give the title compound as thick yellow oil, which was used without further purification (470 mg). [M+H] calc'd for C24H31N5O5, 470. found, 470.

reactant | methyl 6-chloro-4-cyano-2-(m-tolylamino)nicotinate | 0.928 mmol, 0.28 g | ClC1=NC(=C(C(=O)OC)C(=C1)C#N)NC=1C=C(C=CC1)C | C15H12ClN3O2
reactant | (R)-tert-Butyl 1-amino-3-methoxypropan-2-ylcarbamate | 1.114 mmol, 0.227 g | NC[C@H](COC)NC(OC(C)(C)C)=O | C9H20N2O3
reactant | DIPEA | 1.206 mmol, 0.211 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | (R)-Methyl 6-(2-(tert-butoxycarbonylamino)-3-methoxypropylamino)-4-cyano-2-(m-tolylamino)nicotinate | C(C)(C)(C)OC(=O)N[C@H](CNC1=NC(=C(C(=O)OC)C(=C1)C#N)NC=1C=C(C=CC1)C)COC | C24H31N5O5
